US05614544
A mixture of 5-[3-[4-[1-hydroxy-3-(5-methyl-2-phenyl-4-oxazolyl)propyl]phenyl]propyl]-2,4-oxazolidinedione (0.17 g), 9N HCl (10 ml) and tetrahydrofuran (THF) (10 ml) was heated under refluxing conditions for 2 hours. The reaction mixture was concentrated under reduced pressure; the residue was poured over water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and then concentrated under reduced pressure; the residue was purified by silica gel column chromatography. From the fraction eluted with chloroform-methanol (100:2), 5-[3-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)-1-propenyl]phenyl]propyl]-2,4oxazolidinedione (0.045 g, 28%) was obtained, which was then recrystallized from ether-isopropyl ether to yield colorless needles having a melting point of 136°-137° C.

reactant | 5-[3-[4-[1-hydroxy-3-(5-methyl-2-phenyl-4-oxazolyl)propyl]phenyl]propyl]-2,4-oxazolidinedione | 0.17 g | OC(CCC=1N=C(OC1C)C1=CC=CC=C1)C1=CC=C(C=C1)CCCC1C(NC(O1)=O)=O | C25H26N2O5
reactant | HCl | 9N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-[3-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)-1-propenyl]phenyl]propyl]-2,4oxazolidinedione | 0.045 g, 28% | CC1=C(N=C(O1)C1=CC=CC=C1)CC=CC1=CC=C(C=C1)CCCC1C(NC(O1)=O)=O | C25H24N2O4
